US08633175B2
Intermediate I-VII-10: 1,1-dimethylethyl 7-[4-(amino-carbonyl)phenyl]-3,4-dihydro-2(1H)-isoquinolinecarboxylate
The title compound was prepared from 1,1-dimethylethyl 7-{[(trifluoromethyl)sulfonyl]oxy}-3,4-dihydro-2(1H)-isoquinoline carboxylate (Ex V-17) and 4-(aminocarbonyl)-phenyl boronic acid according to the procedure described for I-VII-9. Tan solid; LC/MS (method A) 2.62 min; m/z 353 (M+H, 75%), 297 ([M−C4H8]+H, 100%).

reactant | 1,1-dimethylethyl 7-{[(trifluoromethyl)sulfonyl]oxy}-3,4-dihydro-2(1H)-isoquinoline carboxylate | FC(S(=O)(=O)OC1=CC=C2CCN(CC2=C1)C(=O)OC(C)(C)C)(F)F | C15H18F3NO5S
reactant | 4-(aminocarbonyl)-phenyl boronic acid | NC(=O)C1=CC=C(C=C1)B(O)O | C7H8BNO3
product | 1,1-dimethylethyl 7-[4-(amino-carbonyl)phenyl]-3,4-dihydro-2(1H)-isoquinolinecarboxylate | NC(=O)C1=CC=C(C=C1)C1=CC=C2CCN(CC2=C1)C(=O)OC(C)(C)C | C21H24N2O3
